US04861887
Preparation of ethyl 2-chloromethyl-5-ethylnicotinate
A solution of 61 g of ethyl-2,4-dichloroacetoacetate (0.306 mol) and 30 g of 2-ethylacrolein (0.357 mol) in 500 mL of absolute ethanol is mixed with 85.5 g of ammonium sulfamate (0.75 mol), and the stirred mixture is heated at reflux for 90 minutes. The reaction is concentrated in vacuo and the residue is partitioned between ethyl acetate and water. The organic phase is concentrated in vacuo, and the residue is chromatographed on silica gel using hexane-ethyl acetate mixtures to give 50 g of crude product. This material is purified by extraction into aqueous hydrochloric acid, washing with hexanes, making the aqueous phase basic with cold ammonium hydroxide, and extracting with hexanes to afford 30 g of the title product as an oil (43%), having elemental analysis calculated for C11H14ClNO2 %C 58.03, H 6.20, N 6.15, Cl 15.57 found %C 58.29, H 6.30, N 6.02, Cl 15.49.

reactant | ethyl-2,4-dichloroacetoacetate | 0.306 mol, 61 g | C(C)OC(C(C(=O)CCl)Cl)=O | C6H8Cl2O3
reactant | 2-ethylacrolein | 0.357 mol, 30 g | C(C)C(C=O)=C | C5H8O
reactant | ammonium sulfamate | 0.75 mol, 85.5 g | S(N)([O-])(=O)=O.[NH4+]
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | ethyl 2-chloromethyl-5-ethylnicotinate | 30 g, 43% | ClCC1=C(C(=O)OCC)C=C(C=N1)CC | C11H14ClNO2
